US05104895
In an inert gas atmosphere and at room temperature, diethyl malonate (6.9 ml) is added dropwise to a stirred solution of potassium tert-butoxide (6.8 g) in dry N-methyl pyrrolidone (63 ml). After warming for 1 hour at 60° C. and cooling at room temperature, a solution of pentaethylenene glycol di-p-toluenesulphonate (25 g) n N-methyl pyrrolidone (25 ml) is dropwise added to the mixture over a period of 4 hrs, that is then heated at 80° C. for 18 hrs. After cooling at room temperature, addition of acetic acid (1ml) and removal of the solvent in vacuum, the residue is purified by chromatography on SiO2 (diethylether/hexane 9:1). The obtained diethyl 2-(14-p-toluenesulphonyloxy-3,6,9,12-tetraoxatetradecane-1-yl)-malonate (4 g) is treated again with potassium tert-butoxide (1.26 g) in dry N-methyl pyrrolidone (50 ml, total volume) using the same procedure above described. A pale yellow oil of 4,4-bis-ethoxycarbonyl-1,7,10,13-tetraoxacyclopentadecane [0.68 g; N.M.R.(CDCl3): 1.23; 2.30; 3.50-3.71; 4.20] is obtained that is treated with aqueous lithium hydroxide (0.2 g) to give 1,7,10,13-tetraoxacyclopentadecane-4,4-dicarboxylic acid (0.32 g; m.p. 107°-111° C.).

reactant | diethyl malonate | 6.9 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | potassium tert-butoxide | 6.8 g | CC(C)([O-])C.[K+]
reactant | acetic acid | 1ml | C(C)(=O)O | C2H4O2
reactant | N-methyl pyrrolidone | 63 ml | CN1C(CCC1)=O | C5H9NO
reactant | N-methyl pyrrolidone | 25 ml | CN1C(CCC1)=O | C5H9NO
product | 4,4-bis-ethoxycarbonyl-1,7,10,13-tetraoxacyclopentadecane | 0.68 g | C(C)OC(=O)C1(CCOCCOCCOCCOCC1)C(=O)OCC | C17H30O8
